US04835175
209 mg of 4-[2-(4-benzyloxyphenyl)-1-methylethyl-aminoacetyl]-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride is hydrogenated in 20 ml of methanol for 2.5 hours at room temperature and under normal pressure in the presence of 42 mg of 10% palladium-carbon. The mixture is filtered, the filtrate is concentrated under vacuum, and the residue is recrystallized from acetone/diethyl ether, thus obtaining 115 mg of 4-{1-hydroxy-2-[2-(4-hydroxyphenyl)-1-methylethylamino]ethyl}-7-hydroxy-indole-2-carboxylic acid ethyl ester hydrochloride, decomposition point 110° C.

reactant | 4-[2-(4-benzyloxyphenyl)-1-methylethyl-aminoacetyl]-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride | 209 mg | Cl.C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(C(C1=CC=C(C=C1)OCC1=CC=CC=C1)(N)C(C)C)=O)O
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 42 mg | [C].[Pd]
product | 4-{1-hydroxy-2-[2-(4-hydroxyphenyl)-1-methylethylamino]ethyl}-7-hydroxy-indole-2-carboxylic acid ethyl ester hydrochloride | 115 mg | Cl.C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC(CC1=CC=C(C=C1)O)C)O)O | InChI=1S/C22H26N2O5.ClH/c1-3-29-22(28)18-11-17-16(8-9-19(26)21(17)24-18)20(27)12-23-13(2)10-14-4-6-15(25)7-5-14;/h4-9,11,13,20,23-27H,3,10,12H2,1-2H3;1H
